US04507498
A mixture of 3.0 g of 1-(2,4-dihydroxy-3-propylphenyl)ethanone, 6.4 g of racemic-[4-acetyl-3-(3-bromopropoxy)-2-propylphenoxy]methylacetic acid ethyl ester and 4.3 g of anhydrous potassium carbonate in 100 ml of anhydrous acetone and 50 ml of anhydrous dimethylformamide was stirred at reflux for 20 hours. The reaction mixture was filtered and the filtrate was concentrated in vacuo to a red oil which was purified by high pressure liquid chromatography using 25% ethyl acetate-hexane to give 5.6 g (69%) of racemic-[4-acetyl-3-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-2-propylphenoxy]methylacetic acid ethyl ester as a yellow oil.

reactant | 1-(2,4-dihydroxy-3-propylphenyl)ethanone | 3.0 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | racemic-[4-acetyl-3-(3-bromopropoxy)-2-propylphenoxy]methylacetic acid ethyl ester | 6.4 g | C(C)OC(CCOC1=C(C(=C(C=C1)C(C)=O)OCCCBr)CCC)=O | C19H27BrO5
reactant | potassium carbonate | 4.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | racemic-[4-acetyl-3-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-2-propylphenoxy]methylacetic acid ethyl ester | 5.6 g, 69% | C(C)OC(CCOC1=C(C(=C(C=C1)C(C)=O)OCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)CCC)=O | C30H40O8
